### PR TITLE
feat(Mathoverflow): Add MO17560

### LINKED ISSUE #1829: If 2^x and 3^x are integers, must x be as well?
### What is the conjecture

 If $2^x$ and $3^x$ are integers, then $x$ must be an integer. I dont know if that problem is still open tbh.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://mathoverflow.net/questions/17560/if-2x-and-3x-are-integers-must-x-be-as-well

### Prerequisites needed

**Formalizability Rating:** 1/5 (0 is best) (as of 2026-01-21)

Mathlib contains all necessary definitions.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-13

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent, and reviewed by me.

See more: https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879

Feedback on mistakes/hallucinations (please include links): https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911

### PR DESCRIPTION
**Pull request by Paul-Lez**
Fixes #1829.

### CODE REVIEW

**Comment by felixpernegger** [comment]
Missing references

File: FormalConjectures/Mathoverflow/17560.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/--
+If $2^x$ and $3^x$ are integers, then $x$ must be an integer.
+-/
+@[category research open, AMS 11 13]
+theorem mathoverflow_17560 {x : ℝ} (hx : ∃ m : ℕ, (2 : ℝ) ^ x = m) (hx' : ∃ m : ℕ, (3 : ℝ) ^ x = m) :
+    ∃ m : ℤ, x = m := by
```
Comment (felixpernegger) [inline FormalConjectures/Mathoverflow/17560.lean]: In the the conditions, you want ```m``` to be a natural number, so to be consistent, maybe require ```m``` to be natural here as well? (since ```x < 0``` is clearly impossible)

**Comment by felixpernegger** [comment]
The mathoverflow top comment mentions that the 2, 3, 5 theorem (and as a corollary the one with all naturals) follows from
https://en.wikipedia.org/wiki/Six_exponentials_theorem

So it feels natural to include this, maybe its even easy enough to prove the 2,3,5 case directly using that.

Furthermore, according to the comment the 2,3 case follows from the _four exponentials conjecture_

**Comment by felixpernegger** [comment]
Regarding this, the Wikipedia page contains following nice picture:

**Comment by Paul-Lez** [comment]
Sounds reasonable - will add the statements of the implications!

**Comment by mo271** [comment]
@Paul-Lez  perhaps also fine to leave the additional statements as TODO in the file?!

File: FormalConjectures/Mathoverflow/17560.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+    ∃ m : ℕ, x = m := by
+  sorry
+
+/--
+If $2^x$, $3^x$ and $5^x$ are integers, then $x$ must be an integer.
+-/
+@[category graduate, AMS 11 13]
+theorem mathoverflow_17560.variants.with_5 {x : ℝ} (hx : ∃ m : ℕ, (2 : ℝ) ^ x = m)
+    (hx' : ∃ m : ℕ, (3 : ℝ) ^ x = m) (hx'' : ∃ m : ℕ, (5 : ℝ) ^ x = m) : ∃ m : ℕ, x = m := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Mathoverflow/17560.lean:50]:
```suggestion
  sorry
  
-- TODO(Paul-Lez): add the implications
```

**Comment by Paul-Lez** [comment]
@mo271 added a TODO:)

File: FormalConjectures/Mathoverflow/17560.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+-/
+@[category research open, AMS 11 13]
+theorem mathoverflow_17560 {x : ℝ} (hx : ∃ m : ℕ, (2 : ℝ) ^ x = m) (hx' : ∃ m : ℕ, (3 : ℝ) ^ x = m) :
+    ∃ m : ℕ, x = m := by
+  sorry
+
+/--
+If for each natural number $n$ the number $n^x$ is an integer then $x$ must also be an integer.
+-/
+@[category graduate, AMS 11 13]
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/17560.lean]:
```suggestion
@[category textbook, AMS 11 13]
```

File: FormalConjectures/Mathoverflow/17560.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+theorem mathoverflow_17560.variants.all_nats {x : ℝ} (hx : ∀ n : ℕ, ∃ m : ℕ, (n : ℝ) ^ x = m) :
+    ∃ m : ℕ, x = m := by
+  sorry
+
+/--
+If $2^x$, $3^x$ and $5^x$ are integers, then $x$ must be an integer.
+-/
+@[category graduate, AMS 11 13]
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/17560.lean]:
```suggestion
@[category textbook, AMS 11 13]
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

File: FormalConjectures/Mathoverflow/17560.lean [hunk 5]
```diff
@@ -0,0 +1,50 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-! # Mathoverflow 17560
+
+
+*Reference:* [mathoverflow/17560](https://mathoverflow.net/questions/17560)
+asked by user [Alon-Amit](https://mathoverflow.net/users/25/alon-amit)
+-/
+
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/17560.lean:25]:
```suggestion

namespace Mathoverflow17560

```

File: FormalConjectures/Mathoverflow/17560.lean [hunk 6]
```diff
@@ -0,0 +1,50 @@
...
+  sorry
+
+/--
+If $2^x$, $3^x$ and $5^x$ are integers, then $x$ must be an integer.
+-/
+@[category textbook, AMS 11 13]
+theorem mathoverflow_17560.variants.with_5 {x : ℝ} (hx : ∃ m : ℕ, (2 : ℝ) ^ x = m)
+    (hx' : ∃ m : ℕ, (3 : ℝ) ^ x = m) (hx'' : ∃ m : ℕ, (5 : ℝ) ^ x = m) : ∃ m : ℕ, x = m := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/Mathoverflow/17560.lean]:
```suggestion
end Mathoverflow17560
```
